US05703194
3-(2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-PENTADECAFLUOROOCTYLOXYMETHYL)-3-METHYLOXETANE
In a manner similar to the that of Example B14, a mixture of 3-bromomethyl-3-methyloxetane (468 g, 2.84 mol), 2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-pentadecafluorooctan-1-ol (1032 g, 2.58 mol), tetrabutylammonium bromide (41.5 g), potassium hydroxide (208 g, 3.23 mol), and water (1680 ml) was heated under reflux for 3 hours. GLC analysis revealed complete consumption of starting materials. The reaction mixture was diluted with water, worked-up in the usual manner, and distilled under reduced pressure to give 1,085 g of 15-FOX, representing an overall yield of 87%; bp 82° C./0.1 mm-Hg. The distilled material was >99% pure as indicated by GLC and was used in subsequent polymerization reactions.

reactant | 3-bromomethyl-3-methyloxetane | 2.84 mol, 468 g | BrCC1(COC1)C | C5H9BrO
reactant | 2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-pentadecafluorooctan-1-ol | 2.58 mol, 1032 g | FC(CO)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C8H3F15O
reactant | potassium hydroxide | 3.23 mol, 208 g | [OH-].[K+]
catalyst | tetrabutylammonium bromide | 41.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1680 ml | O | H2O
product | 3-(2,2,3,3,4,4,5,5,6,6,7,7,8,8,8-PENTADECAFLUOROOCTYLOXYMETHYL)-3-METHYLOXETANE | yield of 87% | FC(COCC1(COC1)C)(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C13H11F15O2
